US04954501
6-[4-[4-(4-methoxybenzoyl)-piperazin-1-yl]-3-nitro-phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone
0.70 g (4.1 mmol) of 4-methoxybenzoyl chloride is added to a slurry of 1.0 g (3.15 mmol) of 6-[3-nitro-4-(1-piperazinyl)-phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone and 1.14 ml (8.2 mmol) of triethylamine in 40 ml of 1,2-dichloroethane and the reaction mixture is boiled under reflux for 0.5 h. It is then cooled to room temperature, 50 ml of water are added, and the organic phase is separated off.

reactant | 4-methoxybenzoyl chloride | 4.1 mmol, 0.70 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | 6-[3-nitro-4-(1-piperazinyl)-phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 3.15 mmol, 1.0 g | [N+](=O)([O-])C=1C=C(C=CC1N1CCNCC1)C=1C(CC(NN1)=O)C | C15H19N5O3
reactant | triethylamine | 8.2 mmol, 1.14 ml | C(C)N(CC)CC | C6H15N
reactant | water | 50 ml | O | H2O
solvent | 1,2-dichloroethane | 40 ml | ClCCCl | C2H4Cl2
product | 6-[4-[4-(4-methoxybenzoyl)-piperazin-1-yl]-3-nitro-phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | COC1=CC=C(C(=O)N2CCN(CC2)C2=C(C=C(C=C2)C=2C(CC(NN2)=O)C)[N+](=O)[O-])C=C1 | C23H25N5O5
